US07842688B2
c) 2-(3-Methoxyphenoxy)ethyl toluene-4-sulphonate
Analogously to Method I, 0.500 g of methoxyphenol and 4.385 g of ethylene di(p-toluenesulphonate) are reacted. The title compound is obtained as a colourless solid. Rf=0.51 (1:1 EtOAc-heptane); Rt=4.68.

reactant | methoxyphenol | 0.500 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | ethylene di(p-toluenesulphonate) | 4.385 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOS(=O)(=O)C1=CC=C(C=C1)C)C | C16H18O6S2
product | 2-(3-Methoxyphenoxy)ethyl toluene-4-sulphonate | C1(=CC=C(C=C1)S(=O)(=O)OCCOC1=CC(=CC=C1)OC)C | C16H18O5S
